US05643932
In 45 ml of tetrahydrofuran were dissolved 1.5 g of 4-(4-hydroxyphenyl)-2-(3,4-diethoxyphenyl)thiazole, 1.4 g of 2,3,4,6-tetra-O-acetyl-β-D-glucopyranose and 1.3 g of triphenylphosphine. Thereto was added, in small portions at 0° C., a solution of 0.9 g of diethyl azodicarboxylate dissolved in 5 ml of tetrahydrofuran. The mixture was stirred at room temperature for 14 hours. The solvent was removed by distillation. The residue was purified by silica gel column chromatography (elutant: dichloromethane) and recrystallized from ethyl acetate-n-hexane to obtain 1.52 g of 4-[4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)phenyl]-2-(3,4-diethoxyphenyl)-thiazole.

reactant | 4-(4-hydroxyphenyl)-2-(3,4-diethoxyphenyl)thiazole | 1.5 g | OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OCC)OCC | C19H19NO3S
reactant | 2,3,4,6-tetra-O-acetyl-β-D-glucopyranose | 1.4 g | C(C)(=O)O[C@H]1[C@H](O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.9 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)phenyl]-2-(3,4-diethoxyphenyl)-thiazole | 1.52 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=C(C=C1)C=1N=C(SC1)C1=CC(=C(C=C1)OCC)OCC | C33H37NO12S
